US06107458
To a solution of 4-bromo-4'-n-butyloxybiphenyl (3.05 g) in tetrahydrofuran (60 ml) was added 1.55M n-butyllithium in n-hexane (7.74 ml) at -60° C. over a period of 10 minutes. The solution was stirred at -30° C. for 1.5 hours and cooled to -60° C. To the solution was added triisopropylborate (3.46 ml) over a period of 5 minutes, and the mixture was stirred for 1.5 hours without cooling. To the solution was added 1N hydrochloric acid (20 ml) and the solution was stirred for 30 minutes and extracted with ethyl acetate. The organic layer was separated and washed with water, brine and dried over magnesium sulfate. The solvents were removed under reduced pressure and the residue was triturated with n-hexane. The solid was collected by filtration and dried under reduced pressure to give 4-(4-n-Butyloxyphenyl)phenylboronic acid (2.31 g).

reactant | 4-bromo-4'-n-butyloxybiphenyl | 3.05 g | BrC1=CC=C(C=C1)C1=CC=C(C=C1)OCCCC | C16H17BrO
reactant | n-butyllithium | 1.55M | C(CCC)[Li]
reactant | triisopropylborate | 3.46 ml | C(C)(C)OB(OC(C)C)OC(C)C | C9H21BO3
reactant | hydrochloric acid | 1N, 20 ml | Cl | ClH
solvent | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
solvent | n-hexane | 7.74 ml | CCCCCC | C6H14
product | 4-(4-n-Butyloxyphenyl)phenylboronic acid | 2.31 g | C(CCC)OC1=CC=C(C=C1)C1=CC=C(C=C1)B(O)O | C16H19BO3
